US07691881B2
2(3) 5-Chloro-6-ethyl-1-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
The title compound was prepared according to the procedure of Example 1(7), but using ethyl 5-chloro-6-ethyl-1-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxylate as prepared in 2(2) instead of ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate.

reactant | ethyl 5-chloro-6-ethyl-1-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxylate | ClC=1C=C(C(N(C1CC)C(C)C)=O)C(=O)OCC | C13H18ClNO3
reactant | ethyl 5-chloro-1-isopropyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylate | ClC=1C=C(C(N(C1C)C(C)C)=O)C(=O)OCC | C12H16ClNO3
product | 5-Chloro-6-ethyl-1-isopropyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | ClC=1C=C(C(N(C1CC)C(C)C)=O)C(=O)O | C11H14ClNO3
